US04629799
100 g of 3-formyl-5,6-dihydro-2,6-dimethyl-2H-thiopyran prepared as described in Example 11(a), 60 ml of ethyl acetate and 30 g of Raney nickel were introduced into a stirred autoclave having a capacity of 300 ml. The autoclave was closed, and flushed with nitrogen. Hydrogen was forced in until the total pressure reached 30 bar, after which the mixture was heated to 90° C. and hydrogenated under these conditions until the pressure remained constant. It was then cooled, the catalyst was filtered off and the filtrate was purified by distillation under reduced pressure. 89 g (88% of theory) of 3-formyl-2,6-dimethyltetrahydrothiopyran of boiling point 127°-129° C./10 mbar were obtained.

reactant | 3-formyl-5,6-dihydro-2,6-dimethyl-2H-thiopyran | 100 g | C(=O)C=1C(SC(CC1)C)C | C8H12OS
catalyst | Raney nickel | 30 g | [Ni] | Ni
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 3-formyl-2,6-dimethyltetrahydrothiopyran | 89 g, 88% | C(=O)C1C(SC(CC1)C)C | C8H14OS
